US06514968B1
Preparation 19 tert-Butyl 4-{2-[(9-Benzyl-9H-carbazol-4-yl)oxy]ethyl}-1-piperazinecarboxylate
A mixture of 9-benzyl-4-(2-bromoethoxy)-9H-carbazole (0.0647 g, 0.170 mmol), Boc-piperazine (0.0380 g, 0.204 mmol), triethylamine (0.0206 g, 0.204 mmol), and acetonitrile (2 mL) is heated at reflux for 24 h. After cooling, the mixture is partitioned between CH2Cl2 and aq. sodium bicarbonate. The organic layers are dried over sodium sulfate; chromatography on silica gel eluting with CH3OH—CH2Cl2 (2/98) gave poor separation of product and impurities. Re-chromatography (silica gel, 20 mL) using acetone-hexane (10/90 to 20/80) gave 0.0650 g (83%) of the title compound; IR (drift) 1693, 1457, 1420, 1365, 1341, 1332, 1291, 1266, 1243, 1174, 1154, 1145, 1129, 1112, 752 cm−1; 1H NMR (CDCl3) δ1.46, 2.65, 3.06, 3.48, 4.41, 5.51, 6.69, 6.99, 7.12, 7.2-7.4, 8.37. Anal. Calcd for C30H35N3O3: C, 74.20; H, 7.26; N, 8.65. Found: C, 73.82; H, 7.41; N, 8.52.

reactant | 9-benzyl-4-(2-bromoethoxy)-9H-carbazole | 0.170 mmol, 0.0647 g | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)OCCBr | C21H18BrNO
reactant | Boc-piperazine | 0.204 mmol, 0.0380 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | triethylamine | 0.204 mmol, 0.0206 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | tert-Butyl 4-{2-[(9-Benzyl-9H-carbazol-4-yl)oxy]ethyl}-1-piperazinecarboxylate | 0.0650 g, 83% | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)OCCN1CCN(CC1)C(=O)OC(C)(C)C | C30H35N3O3
